US05977101
a) 2-(Methylaminomethyl)benzimidazole dihydrochloride
Methylamine (5.0 g, 0.16 mole) was dissolved in a solution of Et2O (100 mL) and EtOH (5 mL) at 0° C., and 2-chloromethylbenzimidazole (13.4 g, 0.08 mole) was added in small portions. The reaction mixture was stirred at RT for 3 h, then was allowed to stand at RT overnight. More Et2O (200 mL) was added, and the reaction was cooled in an ice bath for 3 h before filtering off the precipitate. The filtrate was saturated with HCl and filtered, and the filtrate was concentrated. Silica gel chromatography (step gradient, 10-25% MeOH/CH2Cl2) yielded the title compound (2.5 g, 13%): 1H NMR (250 MHz, 5:1 DMSO-d6 /CDCl3) δ 7.13-7.54 (m, 4H), 4.11 (s, 2H), 2.50 (s, 3H); MS (ES) m/e 162.0 (M+H)+.

reactant | Methylamine | 0.16 mole, 5.0 g | CN | CH5N
reactant | 2-chloromethylbenzimidazole | 0.08 mole, 13.4 g | ClCC=1NC2=C(N1)C=CC=C2 | C8H7ClN2
solvent | Et2O | 100 mL | CCOCC | C4H10O
solvent | EtOH | 5 mL | CCO | C2H6O
solvent | Et2O | 200 mL | CCOCC | C4H10O
product | 2-(Methylaminomethyl)benzimidazole dihydrochloride | 2.5 g, 13% | Cl.Cl.CNCC=1NC2=C(N1)C=CC=C2 | InChI=1S/C9H11N3.2ClH/c1-10-6-9-11-7-4-2-3-5-8(7)12-9;;/h2-5,10H,6H2,1H3,(H,11,12);2*1H
